US08115006B2
(2) Preparation of 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide
5.8 g of 5-chloro-N-(1-cyclopropylethyl)-2-nitrobenzamide was dissolved in 88 ml of ethanol, and 12.6 ml of concentrated hydrochloric acid was dropwise added under cooling with ice. After stirring at the same temperature for 0.5 hour, 4.0 g of reduced iron was added dividedly in several addition. After stirring at room temperature for 3 hours, water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate, and ethyl acetate was distilled off under reduced pressure. Hexane/ethyl acetate were added to the residue, followed by stirring, and the mixture was subjected to filtration to obtain 3.5 g of the pale yellow desired product (melting point: 135° C.).

reactant | 5-chloro-N-(1-cyclopropylethyl)-2-nitrobenzamide | 5.8 g | ClC=1C=CC(=C(C(=O)NC(C)C2CC2)C1)[N+](=O)[O-] | C12H13ClN2O3
reactant | hydrochloric acid | 12.6 ml | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 88 ml | C(C)O | C2H6O
product | 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide | 3.5 g | NC1=C(C(=O)NC(C)C2CC2)C=C(C=C1)Cl | C12H15ClN2O
